US07572820B2
To a solution of 4-chloro-2-(difluoromethyl)-1-(phenylsulfonyl)-1H-indol-5-yl trifluoromethanesulfonate (0.75 g, 1.53 mmol) in anhydrous DMF (10 mL) under N2, was added Zn(CN)2 (0.093 g, 0.80 mmol) and Pd(PPh3)4 (0.088 g, 0.077 mmol) and the resulting mixture was heated at 120° C. for 2 h. Upon cooling, the mixture was partitioned between Et2O and water. The organic phase was washed with water. The combined aqueous phases were reextracted with Et2O. The combined organic phases were washed with sat'd brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (0-40% EtOAc-hexanes gradient) to afford 4-chloro-2-(difluoromethyl)-1-(phenylsulfonyl)-1H-indole-5-carbonitrile (0.35 g, 62% yield) 1H NMR (400 MHz, CDCl3) δ 8.11 (d, J=8.8 Hz, 1H), 7.94 (d, J=7.8 Hz, 2H), 7.67-7.63 (m, 2H), 7.52 (t, J=7.8 Hz, 2H), 7.35 (t, J=54 Hz, 1H), 7.25 (s, 1H, overlapping CHCl3 signal); MS (ES) m/z 365 (M−1)) and 2-(difluoromethyl)-1-(phenylsulfonyl)-1H-indole-4,5-dicarbonitrile (0.054 g, 10% yield) (1H NMR (400 MHz, CDCl3) δ 8.45 (d, J=8.8 Hz, 1H), 7.96 (d, J=7.8 Hz, 2H), 7.77 (d, J=8.8 Hz, 1H), 7.68 (t, J=7.6 Hz, 1H), 7.55 (t, J=7.8 Hz, 2H), 7.38 (t, J=54 Hz, 1H), 7.35 (s, 1H); MS (ES) m/z 356 (M−1)).

reactant | 4-chloro-2-(difluoromethyl)-1-(phenylsulfonyl)-1H-indol-5-yl trifluoromethanesulfonate | 1.53 mmol, 0.75 g | FC(S(=O)(=O)OC=1C(=C2C=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(F)F)Cl)(F)F | C16H9ClF5NO5S2
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 0.80 mmol, 0.093 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 0.077 mmol, 0.088 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-chloro-2-(difluoromethyl)-1-(phenylsulfonyl)-1H-indole-5-carbonitrile | 0.35 g, 62% yield | ClC1=C2C=C(N(C2=CC=C1C#N)S(=O)(=O)C1=CC=CC=C1)C(F)F | C16H9ClF2N2O2S
